US07368578B2
A mixture of 4-chloromethyl-5-methyl-2-phenyl-1,3-oxazole (46.10 g), (2,4-dihydroxyphenyl)(phenyl)methanone (50.14 g), potassium carbonate (48.51 g) and acetone (700 mL) was heated under reflux for 20 hrs. The reaction mixture was concentrated, water was poured into the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-(4-benzoyl-3-hydroxyphenoxymethyl)-5-methyl-2-phenyl-1,3-oxazole as colorless crystals (49.6 g, yield 55%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 115-116° C.

reactant | 4-chloromethyl-5-methyl-2-phenyl-1,3-oxazole | 46.10 g | ClCC=1N=C(OC1C)C1=CC=CC=C1 | C11H10ClNO
reactant | (2,4-dihydroxyphenyl)(phenyl)methanone | 50.14 g | OC1=C(C=CC(=C1)O)C(=O)C1=CC=CC=C1 | C13H10O3
reactant | potassium carbonate | 48.51 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 700 mL | CC(=O)C | C3H6O
product | 4-(4-benzoyl-3-hydroxyphenoxymethyl)-5-methyl-2-phenyl-1,3-oxazole | 49.6 g, yield 55% | C(C1=CC=CC=C1)(=O)C1=C(C=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)O | C24H19NO4
